US06489337B1
2-(4-Dipentylaminopropoxyphenyl)-8-methylimidazo[1,2-a]pyridine
This compound was prepared according to the procedure described in Example 1 above using 2-(4-chloropropoxyphenyl)-8-methylimidazo[1,2-a]pyridine and dipentylamine instead of 2-(4-chloropropoxyphenyl)-imidazo[1,2-a]pyridine and dibutylamine respectively. Analysis Calc'd for C27H39N3O3HCl; C, 8.03; H, 60.05; N, 7.78. Found: C, 8.35; H, 60.16; N, 7.39.

reactant | 2-(4-chloropropoxyphenyl)-8-methylimidazo[1,2-a]pyridine | ClCCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C17H17ClN2O
reactant | dipentylamine | C(CCCC)NCCCCC | C10H23N
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 2-(4-Dipentylaminopropoxyphenyl)-8-methylimidazo[1,2-a]pyridine | C(CCCC)N(CCCCC)CCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C27H39N3O
